US05162326
3-Butyl-6-propylthio-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione
3-Butyl-6-propylthio-1-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione (0.45 g) was dissolved in a mixed solution of methanol (10 ml) and 1N hydrochloric acid (1 ml) and the solution was stirred at room temperature for 4 hours. The reaction mixture was concentrated to dryness and the resulting residue was extracted with methylene chloride-water. The organic layer was washed with water, dried, and evaporated to dryness. The resulting residue was purified by column chromatography on silica gel to give colorless amorphous powders (0.25 g, 84%).

reactant | 3-Butyl-6-propylthio-1-[[2'-(N-trityltetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione | 0.45 g | C(CCC)N1C(N(C(=CC1=O)SCCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C44H42N6O2S
solvent | methanol | 10 ml | CO | CH4O
solvent | hydrochloric acid | 1N, 1 ml | Cl | ClH
product | 3-Butyl-6-propylthio-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione | 0.25 g, 84% | C(CCC)N1C(N(C(=CC1=O)SCCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)=O | C25H28N6O2S
